US08633220B2
Carbon monoxide (CO) gas was slowly bubbled through a solution of methyl 6-(((trifluoromethyl)sulfonyl)oxy)-1-naphthoate (334 mg, 1.0 mmol), Pd(OAc)2 (22 mg, 0.10 mmol), 1,3-bis-(diphenylphosphino)propane (40 mg, 0.10 mmol) and triethylamine (0.28 mL, 2.0 mmol) an DMF (8.3 mL). After 15 min, trioctylsilane (0.90 mL, 2.0 mmol) was added as bubbling continued. The mixture was heated at 70° C., continuing to bubble CO into the solution. After 6 h at 70 the bubbling CO was replaced with a balloon of CO and the reaction mixture was stirred overnight. After 18 h at 70° C., the reaction was cooled to room temperature, diluted with EtOAc (150 mL) and washed with water (3×50 mL) and brine (50 mL). The organic phase was dried (Na2SO4), filtered and concentrated in vacuo. The resulting residue was purified on 40 g silica gel (100% hexanes→25% EtOAc/hexanes, gradient) to afford 78 mg (36%) of methyl 6-formyl-1-naphthoate.

reactant | Carbon monoxide | [C]=O | CO
reactant | methyl 6-(((trifluoromethyl)sulfonyl)oxy)-1-naphthoate | 1.0 mmol, 334 mg | FC(S(=O)(=O)OC=1C=C2C=CC=C(C2=CC1)C(=O)OC)(F)F | C13H9F3O5S
reactant | 1,3-bis-(diphenylphosphino)propane | 0.10 mmol, 40 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | triethylamine | 2.0 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | trioctylsilane | 2.0 mmol, 0.90 mL | C(CCCCCCC)[SiH](CCCCCCCC)CCCCCCCC | C24H52Si
reactant | DMF | 8.3 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 0.10 mmol, 22 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | methyl 6-formyl-1-naphthoate | 78 mg, 36% | C(=O)C=1C=C2C=CC=C(C2=CC1)C(=O)OC | C13H10O3
